US05179100
11-Amino-4,5-dihydro-2-ethyl-2H-pyrazolo[3,4-a]acridine
To a solution of 11-amino-4,5-dihydro-1H-pyrazolo[3,4-a]acridine (3.0 g) in dry DMF (90 ml) was added NaH (60%)(0.63 g) slowly. The reaction was stirred at room temperature for a half hour, bromoethane (1.2 ml) was added and the reaction was stirred at room temperature overnight.

reactant | 11-amino-4,5-dihydro-1H-pyrazolo[3,4-a]acridine | 3.0 g | NC=1C2=CC=CC=C2N=C2CCC3=C(C12)NN=C3 | C14H12N4
reactant | NaH | 0.63 g | [H-].[Na+]
reactant | bromoethane | 1.2 ml | BrCC | C2H5Br
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
product | 11-Amino-4,5-dihydro-2-ethyl-2H-pyrazolo[3,4-a]acridine | NC=1C2=CC=CC=C2N=C2CCC=3C(C12)=NN(C3)CC | C16H16N4
